US06569860B2
2-(Trimethylsilyl)ethyl 2-ethoxymethylenecyanoacetate (10.0 g, 41.4 mmol) and benzaldehyde-phenylhydrazone (8.13 g, 41.4 mmol) were combined in 50 mL xylenes under N2 and heated at reflux for 5 h, cooled to room temperature, then treated with hexane (50 mL) and allowed to stir overnight. The precipitate was filtered off, washed with hexane and dried to afford 5.46 g of crude product. Purification by chromatography afforded 2.69 g (16%) of 2-(trimethylsilyl)ethyl 3-(N′-benzylidene-N-phenylhydrazino)-2-cyanoacrylate, as a white solid.

reactant | 2-(Trimethylsilyl)ethyl 2-ethoxymethylenecyanoacetate | 41.4 mmol, 10.0 g | C(C)OC=C(C(=O)OCC[Si](C)(C)C)C#N | C11H19NO3Si
reactant | benzaldehyde-phenylhydrazone | 41.4 mmol, 8.13 g | C1(=CC=CC=C1)NN=CC1=CC=CC=C1 | C13H12N2
solvent | hexane | 50 mL | CCCCCC | C6H14
product | 2-(trimethylsilyl)ethyl 3-(N′-benzylidene-N-phenylhydrazino)-2-cyanoacrylate | 2.69 g, 16% | C(C1=CC=CC=C1)=NN(C1=CC=CC=C1)C=C(C(=O)OCC[Si](C)(C)C)C#N | C22H25N3O2Si
